US07179801B2
To a solution of N-[2-(5-amino-1-methylpyrazol-4-yl)ethyl]formamide (2.7 g, 16 mmol) and triethylamine (2.5 ml, 17.6 mmol) in methylene chloride (50 ml) was added triphenylmethyl chloride (5.2 g, 17.6 mmol), and the mixture was stirred at room temperature for 3 hours. The reaction mixture was washed with successively 10% aqueous citric acid solution and brine. The organic layer was dried over anhydrous magnesium sulfate, filtered, and concentrated in vacuo. The residue was triturated with diisopropyl ether and dried in vacuo to give N-[2-(1-methyl-5-triphenylmethylaminopyrazol-4-yl)ethyl]formamide (4.7 g) as a colorless solid.

reactant | N-[2-(5-amino-1-methylpyrazol-4-yl)ethyl]formamide | 16 mmol, 2.7 g | NC1=C(C=NN1C)CCNC=O | C7H12N4O
reactant | triethylamine | 17.6 mmol, 2.5 ml | C(C)N(CC)CC | C6H15N
reactant | triphenylmethyl chloride | 17.6 mmol, 5.2 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | N-[2-(1-methyl-5-triphenylmethylaminopyrazol-4-yl)ethyl]formamide | 4.7 g | CN1N=CC(=C1NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CCNC=O | C26H26N4O
